US06410556B1
To a solution of 2-amino-5-((2-(1H-indol-3-yl)-2-oxo-acetylamino)methyl)-6-(4-methoxy-benzyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester (143 mg, 0.25 mmol) in dichloromethane (5 ml) was added imidazol-1-yl-oxo-acetic acid tert-butyl ester (144 mg, 0.75 mmol) and the flask was purged with nitrogen. After 24 hours an additional portion of imidazol-1-yl-oxo-acetic acid tert-butyl ester (169 mg, 0.86 mmol) was added and the reaction mixture allowed stirred for an additional 24 hours. The mixture was then concentrated in vacuo. The residue was purified by flash chromatography using a mixture of ethyl acetate/hexanes (2:5) as eluent, which afforded 101 mg (58%) of 2-(tert-butyoxyoxalyl-amino)-5-((2-(1H-indol-3-yl)-2-oxo-acetylamino)methyl)-6-(4-methoxy-benzyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester as a oil.

reactant | 2-amino-5-((2-(1H-indol-3-yl)-2-oxo-acetylamino)methyl)-6-(4-methoxy-benzyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester | 0.25 mmol, 143 mg | C(C)(C)(C)OC(=O)C1=C(SC=2CN(C(CC21)CNC(C(=O)C2=CNC1=CC=CC=C21)=O)CC2=CC=C(C=C2)OC)N | C31H34N4O5S
reactant | imidazol-1-yl-oxo-acetic acid tert-butyl ester | 0.75 mmol, 144 mg | C(C)(C)(C)OC(C(=O)N1C=NC=C1)=O | C9H12N2O3
reactant | imidazol-1-yl-oxo-acetic acid tert-butyl ester | 0.86 mmol, 169 mg | C(C)(C)(C)OC(C(=O)N1C=NC=C1)=O | C9H12N2O3
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 2-(tert-butyoxyoxalyl-amino)-5-((2-(1H-indol-3-yl)-2-oxo-acetylamino)methyl)-6-(4-methoxy-benzyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester | 101 mg, 58% | C(C)(C)(C)OC(=O)C1=C(SC=2CN(C(CC21)CNC(C(=O)C2=CNC1=CC=CC=C21)=O)CC2=CC=C(C=C2)OC)NC(C(=O)OC(C)(C)C)=O | C37H42N4O8S
